US05532245
Preparation of 4-(3,4-Dioxo-2-ethoxy-cyclobut-1-enylamino)-3-methylbenzonitrile
4-Amino-3-methylbenzonitrile (1.94 g, 14.7 mmol) was added to a solution of 3,4-diethoxy-3-cyclobutene-1,2-dione (2.53 g, 14.9 mmol) in acetonitrile (5 mL). After refluxing the mixture for 24 h a second portion of 3,4-diethoxy-3-cyclobutene-1,2-dione (1.15 g, 6.76 mmol) was added and heating was continued for an additional 48 h. The reaction mixture was diluted with ethyl acetate (50 mL), stirred vigorously and filtered free of undissolved solid. The filtrate was chromatographed (CH3OH/CH2Cl2) to afford 0.90 g (24%) of product as a yellow solid: 1H NMR (DMSO-d6): δ 10.50 (s, 1H), 7.76-7.63 (m, 2H), 7.31 (d, 1H), 4.71 (q, 2H), 2.33 (s, 3H), 1.38 (t, 3H).

reactant | 4-Amino-3-methylbenzonitrile | 14.7 mmol, 1.94 g | NC1=C(C=C(C#N)C=C1)C | C8H8N2
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 14.9 mmol, 2.53 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
reactant | 3,4-diethoxy-3-cyclobutene-1,2-dione | 6.76 mmol, 1.15 g | C(C)OC=1C(C(C1OCC)=O)=O | C8H10O4
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-(3,4-Dioxo-2-ethoxy-cyclobut-1-enylamino)-3-methylbenzonitrile | 0.90 g, 24% | O=C1C(=C(C1=O)NC1=C(C=C(C#N)C=C1)C)OCC | C14H12N2O3
